US06180316B2
(1) Synthesis of 8-methyl-8-methoxycarbonyltetracyclo[4.4.0.12,5.17,10]dodec-3-ene
A 50 liter reaction vessel equipped with a stirrer maintained at a temperature of 180° C. and pressure of 3.5 kg/cm2.G was continuously charged with a mixture of methyl methacrylate, dicyclopentadiene, and 5-methyl-5-methoxycarbonylbicyclo[2.2.1]hept-2-ene, at a ratio of 1:2.4 (cyclopentadiene base):2.4, at a feed rate of 4 kg/hour, so that the average residence time of the reaction raw materials in the reaction vessel was maintained 8 hours. As a polymerization inhibitor, a solution of p-methoxyphenol in methyl methacrylate was added in an amount of 300 ppm (weight base) of the total amount of the reaction raw materials.

reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | 5-methyl-5-methoxycarbonylbicyclo[2.2.1]hept-2-ene | CC1(C2C=CC(C1)C2)C(=O)OC | C10H14O2
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | p-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
solvent | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
product | 8-methyl-8-methoxycarbonyltetracyclo[4.4.0.12,5.17,10]dodec-3-ene | CC1(C2C3C4C=CC(C3C(C1)C2)C4)C(=O)OC | C15H20O2
